Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Sulfa (Sulfonamide 
Antibiotics) / scopolamine / chocolate
 
Attending: ___
 
Chief Complaint:
left hand clumsiness and left visual field cut
 
Major Surgical or Invasive Procedure:
TEE ___

 
History of Present Illness:
The pt is a ___ ___ woman with h/o HTN, HLD, 
TIA
___ years ago) and stroke ___ years ago) who presents to us 
after
an episode of left hand clumsiness and left visual field cut.

She is in her normal state of health until the evening of ___. 
At 7:50pm, she was getting ready for bed.  (She sleeps early
typically.) She noticed that her left hand and arm was clumsy 
and
numb and "wouldn't move" as she was disrobing herself. She also
noted a left visual field cut. She did not try to cover either
eye to check.  She called her husband but her speech was 
slurred.
She had no problem knowing what she wants to say.  

Her husband came and check on her and she was able to understand
him.  She was lucid the whole time.  Her husband asked her to
raise her arm and she had no drift at 5 mins since the onset of
her symptoms. Her speech was still slurred at the time She was
able to stand and walk to the car.  Her husband drove her to the
police station and that was when an ambulance was called. Her
field cute lasted about 10 mins, the slurred speech 20 mins, and
left arm clumsiness 45mins.  Her arm still still a bit off
currently.  She was brought to ___ and referred
here for TIA w/u.

Of note: the TIA ___ years ago presented similarly, affecting her
left arm with visual changes.  The stroke ___ years ago resulted
in left foot drop but she currently has no residual deficit. She
cannot recall what TIA/stroke workup she had in the past.

On neuro ROS, the pt denies headache, diplopia, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HTN
HLD
hiatal hernia
No a fib
arthritis - hands and spine

 
Social History:
___
Family History:
DMT2

 
Physical Exam:
Physical Exam:
Vitals: P: 72  R: 16  BP:112/68  SaO2: 96% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, MMM, no lesions noted in oropharynx
Pulmonary: Lungs CTA bilaterally 
Cardiac: RRR, 

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands.  The pt had good
knowledge of current events. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to ___ bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, cold sensation  
throughout.
No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    *3   2
R  2  2    2    2   2
*cross adduction
Right toe up, L toe mute

-Coordination: No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. ___, normal stride and arm
swing. Romberg absent.

 
Pertinent Results:
ADMISSION LABS
___ 04:00PM URINE  ___ SP ___
___ 04:00PM URINE  ___ 
___ 
___
___ 04:00PM URINE  ___ 
EPI-<1
___ 04:00PM URINE  ___
___ 04:00PM URINE  ___
___ 09:05AM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 09:05AM   ___ this
___ 09:05AM   ALT(SGPT)-19 AST(SGOT)-15 CK(CPK)-69 ALK 
___
___ 09:05AM   ___
___ 09:05AM   ___ cTropnT-<0.01
___ 09:05AM   ___ 
___
___ 09:05AM   ___
___ 09:05AM   ___ HDL ___ 
LDL(CALC)-147*
___ 09:05AM   ___
___ 09:05AM   ___ 
___
___ 09:05AM   PLT ___

UA/UCx - contaminated

TTE ___
The left atrium is moderately dilated. No atrial septal defect 
or patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. Mild symmetric left ventricular 
hypertrophy with normal wall thickness, cavity size, and global 
systolic function (biplane LVEF = 55 %). Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Doppler parameters are indeterminate for left 
ventricular diastolic function. Right ventricular chamber size 
and free wall motion are normal. The ascending aorta is mildly 
dilated. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. Trace aortic regurgitation is 
seen. The mitral valve leaflets are structurally normal. There 
is no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. There is borderline pulmonary artery systolic 
hypertension. There is an anterior space which most likely 
represents a prominent fat pad. 
IMPRESSION: No cardiac source of embolism identified. Preserved 
global and regional biventricular systolic function. Mild mitral 
regurgitation.  

MRI / MRA head and neck ___
Evolving focal acute infarct in the right parietal lobe. No 
intracranial hemorrhage. 
Nonspecific white matter abnormalities likely sequela of chronic 
small vessel ischemic disease. 
Unremarkable head and neck MRA without evidence of significant 
stenosis, aneurysm or other vascular abnormality. However, the 
origins of the great vessels not well evaluated on this study on 
both the noncontrast and post contrast imaging. 

CXR ___
The lung volumes are normal.  Borderline size of the cardiac 
silhouette without pulmonary edema.  No pneumonia or other 
pathological parenchymal process.  Normal hilar and mediastinal 
structures.  No pleural effusions. 

Carotid US ___
Impression: Right ICA no stenosis. 
            Left ICA no stenosis. 

CT Chest ___.  No evidence of intrathoracic malignancy. 
2.  Multiple sub 4 mm pulmonary nodules for which ___ year 
followup is required if the patient is high risk for pulmonary 
malignancy.  If low risk, no further evaluation is needed per 
___ guidelines. 

CT Abd/pelvis ___. Hypervascular lesion in segment VI, which could represent a 
hemangioma or hepatic varix but MRI is recommended for further 
characterization. 
2. Cholelithiasis with no evidence of cholecystitis 
3. 8.6 x 2.6 cm lipoma along the left flank. 
4. Small hiatal hernia. 

TEE ___
The left atrium is dilated. No spontaneous echo contrast or 
thrombus is seen in the body of the left atrium/left atrial 
appendage or the body of the right atrium/right atrial 
appendage. The right atrium is dilated. No atrial septal defect 
or patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and global 
systolic function (LVEF>55%). Right ventricular chamber size and 
free wall motion are normal. There are simple atheroma in the 
aortic arch. There are simple atheroma in the descending 
thoracic aorta. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Moderate to severe (3+) mitral regurgitation is seen. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 
IMPRESSION: No intracardiac thrombus. Moderate to severe mitral 
regurgitation. Thoracic aorta atheroma.  

Cardiac Telemetry monitoring: my read showed intermittent 
afib/aflutter only seen on the day of discharge ___ 
intermittently, suggesting pAfib as the cause of her stroke
 
Brief Hospital Course:
___ year old ___ woman w PMH HTN, HLD, h/o TIA ___ y ago, with L 
arm weakness) and stroke ___ y ago, L leg weakness), p/w L hand 
clumsiness, numbness, and weakness, with slurred speech and a L 
visual field cut. These were very similar to her prior TIA sx ___ 
years ago. These symptoms were transient and lasted < 1 hour, 
exam was normal at time of presentation. However, she still 
endorsed subjectively decreased sensation to light touch on the 
L arm x 1 day ___ graphesthesia is preserved. MRI showed a 
small stroke in the R parietal cortex near the hand area. She 
was initially transitioned from ASA to plavix given that she had 
had this event on aspirin. However, on the last day of 
hospitalization she went into afib/aflutter intermittently on 
cardiac telemtry monitoring; this was likely the cause of her 
recurrent strokes and TIAs. Thus she was planned to transition 
from plavix to apixaban. Since it was the weekend when she was 
discharged, she was instructed to see if she could get the 
apixaban covered by her insurance this weekend, and if it was 
not covered, to stay on plavix until ___ when she could call 
our secretary to help with the insurance approval process. Once 
apixaban is started she knows to stop plavix. She was also 
started on atorvastatin for elevated LDL, LDL should be checked 
in 3 months and statin adjusted with goal LDL ___.

Since this stroke appeared to be embolic because of its 
distribution, she underwent an extensive work up for etiology of 
embolism prior to afib/aflutter being observed on tele on the 
last day. This included CT torso to look for malignancy, which 
found some small lung nodules that could be followed in ___ year 
if she his high risk of lung cancer, and vascular liver lesion 
requring follow up MRI. TTE did not show ASD, PFO, or thrombus, 
so ___ was pursued on ___, which was also negative for source 
of thrombus. This did show moderate to severe MR.

___, we were also going to suggest an outpatient Holter 
monitor or other ___ cardiac monitoring (e.g., Reveal 
device) for further capturing and characterization of her 
afib/aflutter events. In light of her transient AFib in the 
hospital, this issue is less relevant now, but could still be 
considered if deemed necessary.

BP was allowed to autoregulate, and BP remained stable.

TRANSITIONAL ISSUES
- ___ with PCP
- ___ with Neurology, both at ___ x 1 visit, and then closer 
to home therafter. PCP to provide referral to closer 
neurologist.
- PCP follow up for moderate to severe MR seen on echo
- assistance with getting apixaban insurance coverage as needed
- outpatient cardiac monitor
- There were some nodules on Ct torso, if she has high risk of 
pulmonary malignancy she could get repeat scan in ___ year, 
otherwise does not need a scan. 
- liver lesion which requires MRI liver as an outpatient
- Atorvastatin was started for elevated LDL, please recheck LDL 
in 3 months, goal < 100
- goal normotension, continue to manage BP

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack

1. Dysphagia screening before any PO intake? (x) Yes  – () No

2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes - () No

3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No

4. LDL documented (required for all patients)? (x) Yes (LDL = 
147) - () No

5. Intensive statin therapy administered? (x) Yes - () No [if 
LDL ___ 100, reason not given: ____ ]
(intensive statin therapy = simvastatin 80mg, simvastatin 
80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, rosuvastatin 
20mg or 40mg, for LDL >= 100)

6. Smoking cessation counseling given? () Yes - (x) No [if no, 
reason: (x) ___ - () unable to participate]

7. Stroke education given (written form in the discharge 
worksheet)? (x) Yes - () No
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)

8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No [if no, reason not assessed: ____ ]

9. Discharged on statin therapy? (x) Yes - () No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: ____ ]

10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No

11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No [if no, reason not 
discharge on anticoagulation: ____ ] - () N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Hyzaar ___ mg oral daily 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Ranitidine (Liquid) 150 mg PO BID 
6. Fortical (calcitonin (salmon)) 200 unit/actuation nasal daily 


 
Discharge Medications:
1. Ranitidine (Liquid) 150 mg PO BID 
2. Fortical (calcitonin (salmon)) 200 unit/actuation nasal daily 

3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Atorvastatin 40 mg PO DAILY 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Hyzaar ___ mg oral daily 
7. Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3
8. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
1. cortical infarction, suspect embolic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___. You were admitted for L arm weakness, and you 
were found to have a small stroke in her parietal lobe. You were 
initially transitioned from aspirin to plavix, but then your 
telemetry monitoring showed several episodes of afib/aflutter, 
which likely was the cause of your stroke. Thus, we will plan to 
transition you from plavix to apixiban as an outpatient. This 
may require insurance approval, so if you have any issues 
getting approval or it this is very expensive, please continue 
the plavix for now, and call Dr. ___ secretary on ___ at 
___ or call the case manager at ___. Once your 
insurance covers the apixaban, discontinue plavix and start 
apixaban.

You had a CT torso which showed a small lesion in your liver 
that is likely just an abnormal vessel, however, radiology 
recommends an MRI of your liver. We would also like you to get 
an outpatient cardiac monitor to further work you up for atrial 
fibrillation vs a flutter, since we saw several episodes of this 
on telemetry monitoring. Finally, ask your PCP to refer you to a 
neurologist closer to your house, or you are welcome to follow 
up at ___.

It is important that you take all medications as prescribed, and 
keep all follow up appointments.
 
Followup Instructions:
___